US09359364B2
A mixture of 7-bromo-1-ethyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one (1 equiv), bis(pinacolato)diboron (1.5 equiv), and potassium acetate (3.0 equiv) were combined in tetrahydrofuran. The reaction was heated to reflux, cooled, treated with PdCl2 Amphos2 (0.001 equiv), and heated to reflux. The reaction mixture was cooled to room temperature, filtered, and the collected solids were washed with tetrahydrofuran. The filtrate was treated with activated carbon at 50° C., filtered, treated with activated carbon at 50° C. a second time, and filtered. The filtrate was concentrated to 20% of the original volume, cooled, and treated with heptane. The resulting solids were collected by filtration, washed, and dried to obtain 1-ethyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one as a white solid.

reactant | 7-bromo-1-ethyl-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | 1 equiv | BrC1=CN=C2C(=N1)N(C(CN2)=O)CC | C8H9BrN4O
reactant | bis(pinacolato)diboron | 1.5 equiv | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.0 equiv | C(C)(=O)[O-].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | PdCl2 | Cl[Pd]Cl
product | 1-ethyl-7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydropyrazino[2,3-b]pyrazin-2(1H)-one | C(C)N1C(CNC=2C1=NC(=CN2)B2OC(C(O2)(C)C)(C)C)=O | C14H21BN4O3
